US07579473B2
Synthesis of ′N-(3-fluoro-4-{[2-(methylamino)-6,7-bis(methyloxy)quinolin-4-yl]oxy}phenyl)-N′-(4-fluorophenyl)cyclopropane-1,1-dicarboxamide. A mixture of 5-[(3,4-dimethoxy-phenylamino)-methylsulfanyl-methylene]-2,2-dimethyl-[1,3]dioxane-4,6-dione (0.50 g, 1.4 mmol), methylamine (2 M in THF, 0.75 mL. 1.5 mmol), HgCl2 (0.38 g, 1.4 mmol) in THF (5 mL) was stirred at room temperature for 30 minutes. The mixture was extracted with DCM and water (3×) and dried with Na2SO4. Concentration in vacuo afforded 5-[(3,4-dimethoxy-phenylamino)-methylamino-methylene]-2,2-dimethyl-[1,3]dioxane-4,6-dione as a yellow solid (0.48 g, 99% yield) and this compound was used without further purification. LCMS: m/z 335 (M−H)−.

reactant | N-(3-fluoro-4-{[2-(methylamino)-6,7-bis(methyloxy)quinolin-4-yl]oxy}phenyl)-N′-(4-fluorophenyl)cyclopropane-1,1-dicarboxamide | FC=1C=C(C=CC1OC1=CC(=NC2=CC(=C(C=C12)OC)OC)NC)NC(=O)C1(CC1)C(=O)NC1=CC=C(C=C1)F | C29H26F2N4O5
reactant | 5-[(3,4-dimethoxy-phenylamino)-methylsulfanyl-methylene]-2,2-dimethyl-[1,3]dioxane-4,6-dione | 1.4 mmol, 0.50 g | COC=1C=C(C=CC1OC)NC(=C1C(OC(OC1=O)(C)C)=O)SC | C16H19NO6S
reactant | methylamine | 1.5 mmol, 2 M, 0.75 mL | CN | CH5N
solvent | THF | 5 mL | C1CCOC1 | C4H8O
catalyst | HgCl2 | 1.4 mmol, 0.38 g | Cl[Hg]Cl
product | 5-[(3,4-dimethoxy-phenylamino)-methylamino-methylene]-2,2-dimethyl-[1,3]dioxane-4,6-dione | 0.48 g, 99% yield | COC=1C=C(C=CC1OC)NC(=C1C(OC(OC1=O)(C)C)=O)NC | C16H20N2O6
